US05959125
182 g of triethylsilyl chloride are added over 1 hour 20 minutes to a solution of 293.9 g of 10-deacetylbaccatin III in 2.7 liters of pyridine. The solution obtained is stirred for 40 hours at 5° C. 360 g of acetic anhydride are then added while the temperature is maintained at 5° C. The suspension obtained is stirred for 48 hours at 20° C. and then poured into 40 liters of ice-cold water. The precipitate obtained is separated by filtration, then washed with 8 times 2 liters of water and lastly dissolved in 3 liters of ethyl acetate. The organic phase is dried over magnesium sulphate. After filtration and concentration under reduced pressure, the product obtained is crystallized in isopropyl ether. 7-(Triethylsilyl)baccatin III is thereby obtained in a 77% yield, the characteristics of which product are as follows:

reactant | triethylsilyl chloride | 182 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | 10-deacetylbaccatin III | 293.9 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
reactant | acetic anhydride | 360 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.7 liters | N1=CC=CC=C1 | C5H5N
product | 7-(Triethylsilyl)baccatin III | 77% yield | CC[Si](CC)(CC)O[C@H]1C[C@@H]2[C@@](CO2)([C@@H]3[C@@]1(C(=O)[C@@H](C4=C([C@H](C[C@@]([C@H]3OC(=O)C5=CC=CC=C5)(C4(C)C)O)O)C)OC(=O)C)C)OC(=O)C | C37H52O11Si
